US06441008B1
N-[(1S)-2-chloro-1-methylethyl]pyridin-4-amine Hydrochloride
(S)-2-(Pyridin-4-ylamino)-propan-1-ol (15 g) in dichloromethane (150 ml) was treated with thionyl chloride (59 g) whilst maintaining the temperature <10° C., and the resultant mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated under reduced pressure to give the title compound as a white solid (20.1 g).

reactant | (S)-2-(Pyridin-4-ylamino)-propan-1-ol | 15 g | N1=CC=C(C=C1)N[C@H](CO)C | C8H12N2O
reactant | thionyl chloride | 59 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[(1S)-2-chloro-1-methylethyl]pyridin-4-amine Hydrochloride | 20.1 g | Cl.ClC[C@H](C)NC1=CC=NC=C1 | InChI=1S/C8H11ClN2.ClH/c1-7(6-9)11-8-2-4-10-5-3-8;/h2-5,7H,6H2,1H3,(H,10,11);1H/t7-;/m0./s1
